### PR TITLE
feat(ErdosProblems): 252

### LINKED ISSUE #443: Erdős Problem 252
### What is the conjecture
    
https://www.erdosproblems.com/252

  Let $k\geq 1$ and $\sigma_k(n)=\sum_{d\mid n}d^k$. Is

$$\sum \frac{\sigma_k(n)}{n!}$$

irrational?

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by CoolRmal**
I don't think we have the prime tuple conjecture or Schinzel's conjecture in this repository, so I can't formalize that they imply that `∑ σ k n / n!` is irrational for all `k` and leave a TODO.

Closes #443

### CODE REVIEW

File: FormalConjectures/ErdosProblems/252.lean [hunk 1]
```diff
@@ -0,0 +1,78 @@
...
+-/
+
+open scoped Nat
+open ArithmeticFunction
+
+namespace Erdos252
+
+/-- `∑ σ 0 n / n!` is irrational. This is proved in [ErSt71]. -/
+@[category research solved, AMS 11]
+theorem erdos_252_0 : Irrational (∑' n : ℕ, sigma 0 n / (n ! : ℝ)) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/252.lean]: You can use the notation here:
```suggestion
theorem erdos_252_0 : Irrational (∑' n, σ 0 n / (n ! : ℝ)) := by
```
Same below

File: FormalConjectures/ErdosProblems/252.lean [hunk 2]
```diff
@@ -0,0 +1,78 @@
...
+  sorry
+
+/-- For a fixed `k ≥ 5`, is `∑ σ k n / n!` irrational?.
+#TODO : Once we have Schinzel's conjecture or the prime tuple conjecture in this repository,
+formalize the statement that these two conjectures imply that `∑ σ k n / n!` is irrational for all
+`k`.
+-/
+@[category research open, AMS 11]
+theorem erdos_252_ge_5 {k : ℕ} (hk : k ≥ 5) :
+    Irrational (∑' n : ℕ, sigma k n / (n ! : ℝ)) ↔ answer(sorry) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/252.lean]: Can you quantifiy over all `k`?
```suggestion
theorem erdos_252_ge_5 : answer(sorry) ↔
    \forall  k ≥ 5, Irrational (∑' n, sigma k n / (n ! : ℝ)) := by
```

**Comment by mo271** [comment]
> I don't think we have the prime tuple conjecture or Schinzel's conjecture in this repository, so I can't formalize that they imply that `∑ σ k n / n!` is irrational for all `k` and leave a TODO.

We only have this: 
https://github.com/google-deepmind/formal-conjectures/blob/0c00b3af45f597ec69a66219981881de00e926c5/FormalConjectures/Wikipedia/Schinzel.lean

File: FormalConjectures/ErdosProblems/252.lean [hunk 3]
```diff
@@ -0,0 +1,92 @@
...
+  sorry
+
+/-- `∑ σ 4 n / n!` is irrational. This is proved in [Pr22]. -/
+@[category research solved, AMS 11]
+theorem erdos_252_4 : Irrational (∑' n, σ 4 n / (n ! : ℝ)) := by
+  sorry
+
+/-- For a fixed `k ≥ 5`, is `∑ σ k n / n!` irrational?. -/
+@[category research open, AMS 11]
+theorem erdos_252_ge_5 {k : ℕ} : answer(sorry) ↔
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/252.lean]:
```suggestion
theorem erdos_252_ge_5 : answer(sorry) ↔
```

File: FormalConjectures/ErdosProblems/252.lean [hunk 4]
```diff
@@ -0,0 +1,92 @@
...
+@[category research solved, AMS 11]
+theorem erdos_252.schinzel (hs : ∀ (fs : Finset (Polynomial ℤ)), (∀ f ∈ fs, BunyakovskyCondition f)
+    → SchinzelCondition fs → Infinite ↑{n | ∀ f ∈ fs, Prime (Polynomial.eval (↑n) f).natAbs}) :
+    ∀ k, Irrational (∑' n, σ k n / (n ! : ℝ)) := by
+  sorry
+
+/-- If the prime `k`-tuples conjecture is true, then `∑ σ k n / n!` is irrational. This is proved
+in [FLC07]. -/
+@[category research solved, AMS 11]
+theorem erdos_252.prime_tuples {k : ℕ} (hk : 4 ≤ k) (hp : ∀ (a : Fin k → ℕ+) (b : Fin k → ℕ)
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/252.lean:86]: Why is this `4 ≤ k` rather than `5 ≤ k` or no condition at all?

File: FormalConjectures/Paper/PrimeTuples.lean [hunk 5]
```diff
@@ -0,0 +1,38 @@
...
+divisor function series. Integers (2007).
+-/
+
+open Nat
+
+namespace PrimeTuplesConjecture
+
+/-- For any `k ≥ 2`, let `a₁,...,aₖ` and `b₁,...,bₖ` be integers with `aᵢ > 0`. Suppose that for
+every prime `p` there exists an integer `n` such that `p ∤ ∏ i, (aᵢ n + bᵢ)`. Then there exist
+infinitely many `n` such that `aᵢ n + bᵢ` is prime for all `i`.-/
```
Comment (YaelDillies) [inline FormalConjectures/Paper/PrimeTuples.lean]:
```suggestion
infinitely many `n` such that `aᵢ n + bᵢ` is prime for all `i`. -/
```

File: FormalConjectures/ErdosProblems/252.lean (hunk 4 above)
Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/252.lean:86]: On page 7 of http://emis.icm.edu.pl/journals/INTEGERS/papers/h31/h31.pdf they begin with "Let `k ≥ 4`". Although I don't know whether this assumption is really used seriously in their proof.
